US05977269
Sodium methoxide (NaOCH3), toluene (anhydrous), dichloromethane, hexanes, activated neutral aluminum oxide (60 to 50 mesh), hydroquinone, methyl ehtyl ketone peroxide, dimethylaniline, dicumylperoxide were obtained from commercial sources and used as received.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | methyl ehtyl ketone peroxide | CCC(C)(OO)OOC(C)(CC)OO | C8H18O6
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dicumylperoxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
